US04818761
(c) Preparation of 1-(3-fluorophenyl)-2-(4-pyridylaminomethyl)benzimidazole
A ethanol (8 ml) solution of 1-(3-fluorophenyl)-2-chloromethylbenzimidazole (1.0 g, 4 mmol) prepared in the preceding step (b) and 4-aminopyridine (1.3 g, 7.4 mmol) was refluxed for 1.5 hours. The reaction mixture was concentrated in vacuo and crystallized from acetone and recrystallized from ethanol-acetone, then the objective compound (0.3 g, 0.82 mmol) was obtained.

reactant | 1-(3-fluorophenyl)-2-chloromethylbenzimidazole | 4 mmol, 1.0 g | FC=1C=C(C=CC1)N1C(=NC2=C1C=CC=C2)CCl | C14H10ClFN2
reactant | 4-aminopyridine | 7.4 mmol, 1.3 g | NC1=CC=NC=C1 | C5H6N2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 1-(3-fluorophenyl)-2-(4-pyridylaminomethyl)benzimidazole | 0.82 mmol, 0.3 g | FC=1C=C(C=CC1)N1C(=NC2=C1C=CC=C2)CNC2=CC=NC=C2 | C19H15FN4
